US08614327B2
To a solution of 4-methylbenzene-1,3-diamine (500 mg, 4.1 mmol) in dry pyridine (25 mL) at 0° C. under a N2 atmosphere was added trifluoroacetic anhydride (1.2 mL) dropwise. The cooling bath was removed and the reaction mixture was stirred at room temperature until complete conversion of the starting material to the desired product was observed. The reaction mixture was concentrated under reduced pressure and the residue obtained was purified by silica gel column chromatography (10-45% AcOEt in hexanes) to obtain N,N′-(4-methyl-1,3-phenylene)bis(2,2,2-trifluoroacetamide) (807 mg, 63%). LC/MS: m/z 315.3 (M+H)+ at 1.39 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 4-methylbenzene-1,3-diamine | 4.1 mmol, 500 mg | CC1=C(C=C(C=C1)N)N | C7H10N2
reactant | trifluoroacetic anhydride | 1.2 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | N,N′-(4-methyl-1,3-phenylene)bis(2,2,2-trifluoroacetamide) | 807 mg, 63% | CC1=C(C=C(C=C1)NC(C(F)(F)F)=O)NC(C(F)(F)F)=O | C11H8F6N2O2
